US06239151B1
A solution of (E)-2(R)-[1-(RS)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-3-methylbutyric acid in ethanol was shaken in a hydrogen atmosphere in the presence of 10% palladium on charcoal catalyst until the uptake of hydrogen had stopped. The catalyst was filtered off and the solvent was evaporated to give 2(R)-[1(RS)-(tert.-butoxycarbonyl)-4-phenylbutyl]-3-methylbutyric acid in the form of a pale yellow oil.

reactant | (E)-2(R)-[1-(RS)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-3-methylbutyric acid | C(C)(C)(C)OC(=O)C(C\C=C\C1=CC=CC=C1)[C@H](C(=O)O)C(C)C | C20H28O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2(R)-[1(RS)-(tert.-butoxycarbonyl)-4-phenylbutyl]-3-methylbutyric acid | C(C)(C)(C)OC(=O)C(CCCC1=CC=CC=C1)[C@H](C(=O)O)C(C)C | C20H30O4
